US04460600
To a solution of trans-(±)-3,4-dichloro-N-methyl-N-[6-oxo-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide, prepared as described in Part B hereinabove, in 50 ml of dry methanol there is added 5 ml of trimethylorthoformate and 0.5 ml of 4M methanolic hydrogen chloride. The resulting mixture is refluxed for about 16 hours, cooled, and the solvent is removed in vacuo. The residual oil is crystallized from a hot methanol solution thereof, diluted with diethyl ether until the mixture becomes cloudy to obtain the titled trans-(±)-3,4-dichloro-N-methyl-N-[6,6-dimethoxy-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide, which is converted to a hydrochloride salt.

reactant | trans-(±)-3,4-dichloro-N-methyl-N-[6-oxo-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide | ClC=1C=C(C=CC1Cl)CC(=O)N([C@H]1[C@@H](CCCC1=O)N1CCCC1)C | C19H24Cl2N2O2
reactant | trimethylorthoformate | 5 ml | COC(OC)OC | C4H10O3
reactant | hydrogen chloride | 4M, 0.5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | trans-(±)-3,4-dichloro-N-methyl-N-[6,6-dimethoxy-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide | ClC=1C=C(C=CC1Cl)CC(=O)N([C@H]1[C@@H](CCCC1(OC)OC)N1CCCC1)C | C21H30Cl2N2O3
